US07109199B2
5-Bromo-2-chloro-nicotinonitrile
5-Bromo-2-oxo-1,2-dihydro-pyridine-3-carbonitrile (33 g, 166 mmol) was added to a suspension of PCl5 (96.6 g, 464 mmol) in POCl3 (20 ml, 216 mmol). The mixture was stirred at reflux for 3 hours, cooled to room temperature and then poured slowly into ice/water. The resulting solid was fitered, washed with water, and dried in vacuo to afford the title compound.

reactant | 5-Bromo-2-oxo-1,2-dihydro-pyridine-3-carbonitrile | 166 mmol, 33 g | BrC=1C=C(C(NC1)=O)C#N | C6H3BrN2O
reactant | PCl5 | 464 mmol, 96.6 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | POCl3 | 216 mmol, 20 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 5-Bromo-2-chloro-nicotinonitrile | BrC=1C=NC(=C(C#N)C1)Cl | C6H2BrClN2
